T1 (net77 net119 net119 0) pfet L=1.68E-6 W=5.35E-6
T2 (net82 net288 net288 0) pfet L=0.18E-6 W=6.69E-6
T3 (net24 net69 net69 0) pfet L=2.84E-6 W=0.20E-6
C4 (vdd! net213) C=2.4E-5
T5 ( net252 net252 vdd! vdd!)  pfet  L=9.92E-6 W=9.39E-6
T6 ( net250 net252 vdd! vdd!)  pfet  L=9.92E-6 W=9.39E-6
R7 ( net250 net8)  R=6.8E6
C8 (net157 net327) C=4.6E-8
T9 (vdd! net42 net42 0) pfet L=7.32E-6 W=3.62E-6
R10 ( net337 net217)  R=7.7E1
T11 ( net217 net217 vdd! vdd!)  pfet  L=0.25E-6 W=3.67E-6
T12 ( net26 net217 vdd! vdd!)  pfet  L=0.25E-6 W=3.67E-6
T13 (net87 net347 net347 0) nfet L=1.21E-6 W=1.24E-6
C14 (net265 net56) C=1.5E-13
T15 (0 net173 net173 0) nfet L=8.70E-6 W=5.98E-6
R16 (net150 net384) R=6.6E3
R17 ( net347 net232)  R=5.2E0
T18 ( net232 net72 0 0)  nfet  L=5.30E-6 W=8.10E-6
T19 ( net74 net72 0 0)  nfet  L=5.30E-6 W=8.10E-6
T20 ( net237 net232 net74 0)  nfet  L=5.30E-6 W=8.10E-6
T21 (net43 net54 net54 0) pfet L=0.37E-6 W=3.17E-6
C22 (net372 net136) C=4.4E-13
T23 (net78 net386 net386 0) pfet L=6.03E-6 W=5.66E-6
R24 ( net190 net133)  R=2.0E5
T25 ( net133 net133 net23 vdd!)  pfet  L=3.18E-6 W=5.59E-6
T26 ( net23 net319 vdd! vdd!)  pfet  L=3.18E-6 W=5.59E-6
T27 ( net319 net319 vdd! vdd!)  pfet  L=3.18E-6 W=5.59E-6
T28 ( net18 net133 net319 vdd!)  pfet  L=3.18E-6 W=5.59E-6
T29 (net103 net98 net98 0) pfet L=5.18E-6 W=3.23E-6
R30 ( net92 net268)  R=3.9E0
T31 ( net268 net268 0 0)  nfet  L=7.84E-6 W=2.62E-6
T32 ( net378 net268 0 0)  nfet  L=7.84E-6 W=2.62E-6
C33 (net316 net290) C=5.5E-6
T34 (net291 net75 net75 0) pfet L=1.35E-6 W=2.61E-6
T35 ( net175 net175 0 0)  nfet  L=1.37E-6 W=1.63E-6
T36 ( net226 net175 0 0)  nfet  L=1.37E-6 W=1.63E-6
R37 ( net226 net261)  R=8.6E2
T38 (net396 net376 net376 0) pfet L=3.86E-6 W=9.18E-6
C39 (vdd! net290) C=2.1E-6
T40 (net340 net353 net353 0) pfet L=5.17E-6 W=0.27E-6
T41 (net280 net13 net13 0) nfet L=5.31E-6 W=8.02E-6
C42 (net36 net50) C=8.3E-7
T43 ( net111 net111 vdd! vdd!)  pfet  L=8.29E-6 W=4.86E-6
T44 ( net368 net111 vdd! vdd!)  pfet  L=8.29E-6 W=4.86E-6
R45 ( net368 net280)  R=2.7E4
T46 (net372 net62 net62 0) nfet L=2.49E-6 W=5.66E-6
R47 ( net134 net34)  R=3.8E6
T48 ( net34 net34 net373 vdd!)  pfet  L=6.15E-6 W=1.87E-6
T49 ( net373 net73 vdd! vdd!)  pfet  L=6.15E-6 W=1.87E-6
T50 ( net73 net73 vdd! vdd!)  pfet  L=6.15E-6 W=1.87E-6
T51 ( net91 net34 net73 vdd!)  pfet  L=6.15E-6 W=1.87E-6
R52 (net335 net383) R=7.3E2
T53 (net29 net81 net81 0) nfet L=7.35E-6 W=8.55E-6
C54 (net146 net301) C=5.3E-14
T55 (net178 net207 net207 0) pfet L=7.79E-6 W=4.91E-6
T56 (net221 vdd! vdd! 0) nfet L=2.01E-6 W=7.50E-6
R57 ( net146 net321)  R=3.8E5
T58 ( net321 net203 vdd! vdd!)  pfet  L=6.52E-6 W=2.60E-6
T59 ( net106 net203 vdd! vdd!)  pfet  L=6.52E-6 W=2.60E-6
T60 ( 0 net321 net203 vdd!)  pfet  L=6.52E-6 W=2.60E-6
R61 (net215 net176) R=6.3E4
R62 ( net275 net246)  R=2.4E2
T63 ( net246 net246 net101 vdd!)  pfet  L=8.31E-6 W=5.92E-6
T64 ( net101 net103 vdd! vdd!)  pfet  L=8.31E-6 W=5.92E-6
T65 ( net103 net103 vdd! vdd!)  pfet  L=8.31E-6 W=5.92E-6
T66 ( net99 net246 net103 vdd!)  pfet  L=8.31E-6 W=5.92E-6
C67 (net70 net253) C=7.7E-9
R68 ( net318 net104)  R=4.7E6
T69 ( net104 net104 vdd! vdd!)  pfet  L=4.77E-6 W=8.81E-6
T70 ( net177 net104 vdd! vdd!)  pfet  L=4.77E-6 W=8.81E-6
R71 (net271 net227) R=5.6E1
R72 ( net98 net324)  R=4.2E5
T73 ( net324 net102 0 0)  nfet  L=7.74E-6 W=7.97E-6
T74 ( net290 net102 0 0)  nfet  L=7.74E-6 W=7.97E-6
T75 ( vdd! net324 net102 0)  nfet  L=7.74E-6 W=7.97E-6
C76 (net125 net298) C=2.1E-14
C77 (net333 net62) C=1.7E-7
R78 (net261 net351) R=8.5E2
R79 ( net87 net143)  R=1.6E4
T80 ( net143 net143 net88 0)  nfet  L=0.42E-6 W=8.83E-6
T81 ( net88 net156 0 0)  nfet  L=0.42E-6 W=8.83E-6
T82 ( net156 net156 0 0)  nfet  L=0.42E-6 W=8.83E-6
T83 ( net389 net143 net156 0)  nfet  L=0.42E-6 W=8.83E-6
T84 (net117 net168 net168 0) pfet L=4.13E-6 W=5.98E-6
R85 ( net210 net249)  R=9.0E1
T86 ( net249 net64 vdd! vdd!)  pfet  L=8.36E-6 W=4.38E-6
T87 ( net352 net64 vdd! vdd!)  pfet  L=8.36E-6 W=4.38E-6
T88 ( 0 net249 net64 vdd!)  pfet  L=8.36E-6 W=4.38E-6
T89 (net273 net305 net305 0) pfet L=0.44E-6 W=3.59E-6
R90 ( net334 net113)  R=3.6E5
T91 ( net113 net208 0 0)  nfet  L=7.53E-6 W=5.07E-6
T92 ( net264 net208 0 0)  nfet  L=7.53E-6 W=5.07E-6
T93 ( net39 net113 net264 0)  nfet  L=7.53E-6 W=5.07E-6
C94 (net57 net233) C=2.4E-13
R95 ( net67 net53)  R=8.9E3
T96 ( net53 net347 0 0)  nfet  L=3.31E-6 W=8.07E-6
T97 ( net311 net347 0 0)  nfet  L=3.31E-6 W=8.07E-6
T98 ( vdd! net53 net347 0)  nfet  L=3.31E-6 W=8.07E-6
C99 (0 net26) C=8.4E-5
R100 ( net57 net59)  R=6.3E3
T101 ( net59 net59 0 0)  nfet  L=4.15E-6 W=8.60E-6
T102 ( net129 net59 0 0)  nfet  L=4.15E-6 W=8.60E-6
C103 (net122 net17) C=7.3E-14
R104 ( net85 net44)  R=1.6E3
T105 ( net44 net44 vdd! vdd!)  pfet  L=2.02E-6 W=1.26E-6
T106 ( net132 net44 vdd! vdd!)  pfet  L=2.02E-6 W=1.26E-6
T107 (vdd! net228 net228 0) nfet L=9.95E-6 W=7.60E-6
R108 (net40 net314) R=6.3E1
R109 ( net117 net288)  R=2.2E3
T110 ( net288 net134 vdd! vdd!)  pfet  L=3.65E-6 W=1.91E-6
T111 ( 0 net134 vdd! vdd!)  pfet  L=3.65E-6 W=1.91E-6
T112 ( 0 net288 net134 vdd!)  pfet  L=3.65E-6 W=1.91E-6
T113 (net206 net120 net120 0) pfet L=1.25E-6 W=5.90E-6
R114 ( net241 net244)  R=1.7E4
T115 ( net244 net299 0 0)  nfet  L=4.39E-6 W=0.83E-6
T116 ( net329 net299 0 0)  nfet  L=4.39E-6 W=0.83E-6
T117 ( vdd! net244 net299 0)  nfet  L=4.39E-6 W=0.83E-6
C118 (net388 net214) C=6.8E-8
R119 ( net177 net86)  R=9.4E3
T120 ( net86 net32 vdd! vdd!)  pfet  L=3.94E-6 W=2.80E-6
T121 ( net124 net32 vdd! vdd!)  pfet  L=3.94E-6 W=2.80E-6
T122 ( net150 net86 net124 vdd!)  pfet  L=3.94E-6 W=2.80E-6
C123 (net79 vdd!) C=6.5E-6
R124 ( net381 net325)  R=2.5E0
T125 ( net325 net38 vdd! vdd!)  pfet  L=9.65E-6 W=3.37E-6
T126 ( net198 net38 vdd! vdd!)  pfet  L=9.65E-6 W=3.37E-6
T127 ( 0 net325 net38 vdd!)  pfet  L=9.65E-6 W=3.37E-6
R128 (net276 net117) R=8.4E2
T129 (net242 net7 net7 0) nfet L=9.27E-6 W=6.77E-6
T130 (net199 net112 net112 0) pfet L=0.57E-6 W=1.31E-6
R131 ( net42 net239)  R=9.7E1
T132 ( net239 net239 0 0)  nfet  L=1.41E-6 W=8.36E-6
T133 ( net56 net239 0 0)  nfet  L=1.41E-6 W=8.36E-6
C134 (net253 net355) C=5.2E-12
C135 (net359 net46) C=9.7E-5
R136 (net46 net351) R=2.9E6
T137 (net381 net55 net55 0) pfet L=3.33E-6 W=7.53E-6
T138 (net139 net181 net181 0) pfet L=1.26E-6 W=8.30E-6
T139 ( net96 net96 0 0)  nfet  L=1.72E-6 W=2.35E-6
T140 ( net394 net96 0 0)  nfet  L=1.72E-6 W=2.35E-6
R141 ( net394 net153)  R=5.5E2
R142 (net137 net132) R=2.0E0
T143 (net178 net377 net377 0) nfet L=5.27E-6 W=2.26E-6
T144 (net195 net172 net172 0) pfet L=3.00E-6 W=7.10E-6
R145 ( net204 net57)  R=3.7E6
T146 ( net57 net247 0 0)  nfet  L=0.75E-6 W=0.21E-6
T147 ( net305 net247 0 0)  nfet  L=0.75E-6 W=0.21E-6
T148 ( net47 net57 net305 0)  nfet  L=0.75E-6 W=0.21E-6
T149 (net301 net27 net27 0) pfet L=4.29E-6 W=6.26E-6
R150 ( net240 net154)  R=5.6E6
T151 ( net154 net154 0 0)  nfet  L=9.94E-6 W=7.44E-6
T152 ( net20 net154 0 0)  nfet  L=9.94E-6 W=7.44E-6
T153 (net112 0 0 0) nfet L=4.09E-6 W=3.83E-6
R154 ( net182 net358)  R=8.8E4
T155 ( net358 net224 vdd! vdd!)  pfet  L=3.28E-6 W=3.48E-6
T156 ( net365 net224 vdd! vdd!)  pfet  L=3.28E-6 W=3.48E-6
T157 ( 0 net358 net224 vdd!)  pfet  L=3.28E-6 W=3.48E-6
C158 (net338 net240) C=9.7E-7
R159 (net293 net22) R=1.4E1
R160 (net176 net390) R=6.2E5
C161 (net346 net352) C=4.1E-5
R162 ( net150 net303)  R=1.9E6
T163 ( net303 net303 net229 0)  nfet  L=3.78E-6 W=3.84E-6
T164 ( net229 net158 0 0)  nfet  L=3.78E-6 W=3.84E-6
T165 ( net158 net158 0 0)  nfet  L=3.78E-6 W=3.84E-6
T166 ( net341 net303 net158 0)  nfet  L=3.78E-6 W=3.84E-6
R167 (net90 vdd!) R=5.0E4
R168 ( net96 net63)  R=2.7E0
T169 ( net63 net22 vdd! vdd!)  pfet  L=8.10E-6 W=1.24E-6
T170 ( net5 net22 vdd! vdd!)  pfet  L=8.10E-6 W=1.24E-6
T171 ( 0 net63 net22 vdd!)  pfet  L=8.10E-6 W=1.24E-6
T172 (net126 net125 net125 0) nfet L=8.29E-6 W=2.38E-6
T173 (net389 vdd! vdd! 0) pfet L=2.62E-6 W=7.63E-6
R174 ( net334 net353)  R=2.1E6
T175 ( net353 net353 vdd! vdd!)  pfet  L=1.25E-6 W=0.67E-6
T176 ( net302 net353 vdd! vdd!)  pfet  L=1.25E-6 W=0.67E-6
T177 (net295 net355 net355 0) nfet L=4.29E-6 W=9.11E-6
R178 ( net380 net387)  R=6.9E2
T179 ( net387 net387 net300 0)  nfet  L=1.94E-6 W=1.12E-6
T180 ( net300 net230 0 0)  nfet  L=1.94E-6 W=1.12E-6
T181 ( net230 net230 0 0)  nfet  L=1.94E-6 W=1.12E-6
T182 ( net221 net387 net230 0)  nfet  L=1.94E-6 W=1.12E-6
R183 (0 net181) R=6.8E4
R184 ( net10 net215)  R=1.1E3
T185 ( net215 net160 vdd! vdd!)  pfet  L=1.08E-6 W=3.63E-6
T186 ( net146 net160 vdd! vdd!)  pfet  L=1.08E-6 W=3.63E-6
T187 ( net189 net215 net146 vdd!)  pfet  L=1.08E-6 W=3.63E-6
T188 (0 net205 net205 0) pfet L=3.99E-6 W=4.18E-6
R189 (0 net301) R=6.7E0
T190 (net365 net384 net384 0) nfet L=6.77E-6 W=4.39E-6
C191 (net310 net192) C=8.8E-13
T192 ( net48 net48 vdd! vdd!)  pfet  L=6.79E-6 W=4.51E-6
T193 ( net131 net48 vdd! vdd!)  pfet  L=6.79E-6 W=4.51E-6
R194 ( net131 net13)  R=1.7E5
R195 (net77 net228) R=6.8E6
R196 ( net118 net362)  R=4.9E6
T197 ( net362 net362 vdd! vdd!)  pfet  L=9.36E-6 W=6.58E-6
T198 ( net367 net362 vdd! vdd!)  pfet  L=9.36E-6 W=6.58E-6
T199 (net320 net61 net61 0) nfet L=5.45E-6 W=5.91E-6
C200 (net248 net109) C=7.1E-6
T201 (net97 net284 net284 0) pfet L=5.40E-6 W=8.47E-6
R202 (net275 net276) R=9.8E4
R203 ( net97 net390)  R=1.8E3
T204 ( net390 net390 vdd! vdd!)  pfet  L=8.65E-6 W=6.08E-6
T205 ( net216 net390 vdd! vdd!)  pfet  L=8.65E-6 W=6.08E-6
R206 (net91 net384) R=4.9E1
R207 ( net384 net181)  R=4.6E1
T208 ( net181 net181 vdd! vdd!)  pfet  L=3.10E-6 W=0.13E-6
T209 ( net110 net181 vdd! vdd!)  pfet  L=3.10E-6 W=0.13E-6
R210 (net339 net304) R=3.9E4
R211 ( net365 net68)  R=7.6E2
T212 ( net68 net285 0 0)  nfet  L=8.39E-6 W=4.06E-6
T213 ( net289 net285 0 0)  nfet  L=8.39E-6 W=4.06E-6
T214 ( vdd! net68 net285 0)  nfet  L=8.39E-6 W=4.06E-6
T215 (net98 net115 net115 0) pfet L=5.21E-6 W=7.22E-6
R216 ( net48 net85)  R=3.1E3
T217 ( net85 net85 net327 vdd!)  pfet  L=7.88E-6 W=6.53E-6
T218 ( net327 net26 vdd! vdd!)  pfet  L=7.88E-6 W=6.53E-6
T219 ( net26 net26 vdd! vdd!)  pfet  L=7.88E-6 W=6.53E-6
T220 ( net265 net85 net26 vdd!)  pfet  L=7.88E-6 W=6.53E-6
T221 (net114 net289 net289 0) nfet L=6.01E-6 W=3.76E-6
R222 ( net111 net115)  R=6.7E3
T223 ( net115 net56 vdd! vdd!)  pfet  L=5.13E-6 W=6.48E-6
T224 ( net388 net56 vdd! vdd!)  pfet  L=5.13E-6 W=6.48E-6
T225 ( net91 net115 net388 vdd!)  pfet  L=5.13E-6 W=6.48E-6
T226 (net280 net135 net135 0) nfet L=7.21E-6 W=0.87E-6
R227 ( net132 net107)  R=9.6E1
T228 ( net107 net107 net90 0)  nfet  L=8.19E-6 W=3.95E-6
T229 ( net90 net267 0 0)  nfet  L=8.19E-6 W=3.95E-6
T230 ( net267 net267 0 0)  nfet  L=8.19E-6 W=3.95E-6
T231 ( net196 net107 net267 0)  nfet  L=8.19E-6 W=3.95E-6
R232 (net307 0) R=4.0E5
R233 ( net9 net36)  R=5.9E1
T234 ( net36 net117 vdd! vdd!)  pfet  L=0.31E-6 W=4.15E-6
T235 ( net315 net117 vdd! vdd!)  pfet  L=0.31E-6 W=4.15E-6
T236 ( 0 net36 net117 vdd!)  pfet  L=0.31E-6 W=4.15E-6
T237 (net277 net54 net54 0) pfet L=6.37E-6 W=7.75E-6
T238 ( net314 net314 0 0)  nfet  L=2.65E-6 W=5.36E-6
T239 ( net379 net314 0 0)  nfet  L=2.65E-6 W=5.36E-6
R240 ( net379 net212)  R=3.4E3
T241 (net334 net76 net76 0) pfet L=1.29E-6 W=2.52E-6
R242 ( net251 net313)  R=6.8E4
T243 ( net313 net269 vdd! vdd!)  pfet  L=6.58E-6 W=5.62E-6
T244 ( net260 net269 vdd! vdd!)  pfet  L=6.58E-6 W=5.62E-6
T245 ( 0 net313 net269 vdd!)  pfet  L=6.58E-6 W=5.62E-6
C246 (net135 net248) C=7.8E-9
T247 ( net378 net378 vdd! vdd!)  pfet  L=6.13E-6 W=5.55E-6
T248 ( net261 net378 vdd! vdd!)  pfet  L=6.13E-6 W=5.55E-6
R249 ( net261 net266)  R=2.9E0
C250 (net396 net17) C=8.6E-11
T251 (net356 net311 net311 0) pfet L=6.13E-6 W=0.18E-6
R252 ( net251 net336)  R=1.0E4
T253 ( net336 net336 vdd! vdd!)  pfet  L=6.90E-6 W=1.15E-6
T254 ( net352 net336 vdd! vdd!)  pfet  L=6.90E-6 W=1.15E-6
C255 (net176 net48) C=5.8E-9
R256 ( net136 net162)  R=3.1E3
T257 ( net162 net100 vdd! vdd!)  pfet  L=8.07E-6 W=1.49E-6
T258 ( net1 net100 vdd! vdd!)  pfet  L=8.07E-6 W=1.49E-6
T259 ( 0 net162 net100 vdd!)  pfet  L=8.07E-6 W=1.49E-6
T260 (net31 net256 net256 0) nfet L=8.60E-6 W=3.74E-6
R261 ( vdd! net172)  R=3.5E1
T262 ( net172 net172 net363 0)  nfet  L=7.36E-6 W=5.78E-6
T263 ( net363 net205 0 0)  nfet  L=7.36E-6 W=5.78E-6
T264 ( net205 net205 0 0)  nfet  L=7.36E-6 W=5.78E-6
T265 ( net211 net172 net205 0)  nfet  L=7.36E-6 W=5.78E-6
R266 (net128 net144) R=7.9E6
R267 (net111 0) R=8.5E2
R268 (net194 net96) R=6.2E3
R269 ( net14 net237)  R=0.9E0
T270 ( net237 net237 0 0)  nfet  L=4.17E-6 W=1.40E-6
T271 ( net161 net237 0 0)  nfet  L=4.17E-6 W=1.40E-6
R272 (net27 net241) R=2.8E3
T273 ( net148 net148 vdd! vdd!)  pfet  L=2.73E-6 W=0.82E-6
T274 ( net286 net148 vdd! vdd!)  pfet  L=2.73E-6 W=0.82E-6
R275 ( net286 net173)  R=6.1E2
T276 (net352 net344 net344 0) pfet L=4.53E-6 W=6.32E-6
R277 (vdd! net348) R=5.0E3
R278 ( 0 net175)  R=9.1E0
T279 ( net175 net175 0 0)  nfet  L=9.67E-6 W=9.06E-6
T280 ( net180 net175 0 0)  nfet  L=9.67E-6 W=9.06E-6
T281 (net98 net345 net345 0) pfet L=8.59E-6 W=8.12E-6
T282 (net18 0 0 0) pfet L=2.69E-6 W=9.71E-6
R283 (net263 net312) R=5.0E3
T284 (vdd! net185 net185 0) pfet L=3.10E-6 W=1.42E-6
T285 (net13 net91 net91 0) pfet L=3.01E-6 W=0.73E-6
T286 (net338 net253 net253 0) nfet L=4.51E-6 W=9.47E-6
C287 (net137 net191) C=6.1E-13
T288 (net87 net78 net78 0) pfet L=1.69E-6 W=8.87E-6
T289 (net370 net271 net271 0) nfet L=7.67E-6 W=7.47E-6
T290 (net274 net157 net157 0) nfet L=2.18E-6 W=5.35E-6
T291 (net344 net309 net309 0) pfet L=0.91E-6 W=3.42E-6
T292 (net276 net258 net258 0) nfet L=4.36E-6 W=9.19E-6
C293 (net356 net338) C=2.3E-14
R294 (net1 net45) R=4.1E4
C295 (net333 vdd!) C=3.9E-7
R296 (net118 net4) R=2.3E0
C297 (net294 net282) C=0.2E-6
R298 (net39 net214) R=3.0E5
T299 (net323 net209 net209 0) pfet L=1.51E-6 W=4.89E-6
R300 (net95 net166) R=0.8E3
R301 (net210 net12) R=6.7E6
T302 (net40 net366 net366 0) pfet L=7.12E-6 W=4.86E-6
T303 (net194 net190 net190 0) nfet L=0.44E-6 W=5.97E-6
C304 (net343 net76) C=4.9E-6
T305 (net148 net291 net291 0) nfet L=8.61E-6 W=2.76E-6
C306 (net365 net52) C=0.2E-9
T307 (net216 net187 net187 0) pfet L=6.12E-6 W=8.00E-6
R308 (net9 net320) R=1.1E5
C309 (net314 net206) C=4.2E-10
T310 (net39 0 0 0) pfet L=7.08E-6 W=2.22E-6
T311 (net213 0 0 0) pfet L=1.57E-6 W=2.83E-6
T312 (net94 net18 net18 0) nfet L=0.41E-6 W=8.43E-6
T313 (net234 net37 net37 0) pfet L=5.26E-6 W=6.52E-6
T314 (net290 net335 net335 0) nfet L=1.10E-6 W=8.10E-6
T315 (net198 net94 net94 0) pfet L=6.44E-6 W=8.76E-6
C316 (net180 net265) C=5.5E-10
C317 (net295 net55) C=4.8E-11
T318 (net263 net110 net110 0) pfet L=8.45E-6 W=7.38E-6
T319 (net40 net119 net119 0) nfet L=8.18E-6 W=0.10E-6
R320 (net170 net263) R=1.8E6
C321 (net322 net148) C=8.2E-13
T322 (net185 0 0 0) pfet L=8.10E-6 W=4.72E-6
C323 (0 net242) C=3.0E-11
T324 (net6 net81 net81 0) pfet L=5.23E-6 W=9.29E-6
C325 (net13 net346) C=0.6E-11
T326 (net54 net213 net213 0) nfet L=7.73E-6 W=4.85E-6
C327 (net382 net213) C=5.6E-7
R328 (net6 net263) R=3.4E3
R329 (net361 net372) R=3.9E4
T330 (net214 net385 net385 0) pfet L=4.00E-6 W=3.58E-6
T331 (net122 net233 net233 0) nfet L=1.85E-6 W=1.37E-6
R332 (net216 net164) R=9.1E3
C333 (net333 net37) C=8.9E-10
T334 (net251 net21 net21 0) nfet L=1.00E-6 W=1.09E-6
T335 (net279 net96 net96 0) nfet L=0.70E-6 W=5.32E-6
T336 (net163 net80 net80 0) nfet L=4.67E-6 W=8.58E-6
T337 (vdd! net263 net263 0) nfet L=7.66E-6 W=1.01E-6
R338 (net212 net352) R=9.0E5
C339 (net97 vdd!) C=2.0E-13
R340 (net180 net251) R=2.5E0
C341 (vdd! net49) C=9.3E-11
T342 (net258 0 0 0) nfet L=0.33E-6 W=2.75E-6
T343 (net204 net295 net295 0) pfet L=9.11E-6 W=8.83E-6
T344 (net28 net213 net213 0) nfet L=0.40E-6 W=1.10E-6
R345 (net283 net76) R=4.1E4
R346 (net151 net67) R=3.7E6
R347 (net149 net346) R=4.2E2
T348 (0 net315 net315 0) pfet L=7.41E-6 W=2.08E-6
T349 (net116 net114 net114 0) pfet L=5.90E-6 W=1.21E-6
T350 (net153 net54 net54 0) nfet L=2.88E-6 W=2.48E-6

