R1 ( net110 net164)  R=9.1E5
T2 ( net164 net237 0 0)  nfet  L=6.45E-6 W=5.28E-6
T3 ( net103 net237 0 0)  nfet  L=6.45E-6 W=5.28E-6
T4 ( 0 net164 net103 0)  nfet  L=6.45E-6 W=5.28E-6
C5 (net54 net112) C=4.1E-5
T6 ( net196 net196 vdd! vdd!)  pfet  L=5.21E-6 W=3.09E-6
T7 ( net276 net196 vdd! vdd!)  pfet  L=5.21E-6 W=3.09E-6
R8 ( net276 net86)  R=9.0E4
T9 (net205 net20 net20 0) nfet L=4.65E-6 W=4.75E-6
R10 ( net144 net178)  R=8.8E4
T11 ( net178 net49 0 0)  nfet  L=1.63E-6 W=5.98E-6
T12 ( net80 net49 0 0)  nfet  L=1.63E-6 W=5.98E-6
T13 ( net36 net178 net80 0)  nfet  L=1.63E-6 W=5.98E-6
C14 (net52 net84) C=0.2E-14
R15 ( net160 net9)  R=0.6E4
T16 ( net9 net9 net238 vdd!)  pfet  L=1.91E-6 W=6.86E-6
T17 ( net238 net134 vdd! vdd!)  pfet  L=1.91E-6 W=6.86E-6
T18 ( net134 net134 vdd! vdd!)  pfet  L=1.91E-6 W=6.86E-6
T19 ( net203 net9 net134 vdd!)  pfet  L=1.91E-6 W=6.86E-6
C20 (net190 net127) C=1.4E-5
T21 ( net279 net279 vdd! vdd!)  pfet  L=1.70E-6 W=9.51E-6
T22 ( net235 net279 vdd! vdd!)  pfet  L=1.70E-6 W=9.51E-6
R23 ( net235 vdd!)  R=9.1E5
C24 (net243 net248) C=9.0E-5
R25 ( net199 net179)  R=8.5E4
T26 ( net179 net56 0 0)  nfet  L=9.07E-6 W=5.82E-6
T27 ( net101 net56 0 0)  nfet  L=9.07E-6 W=5.82E-6
T28 ( net231 net179 net101 0)  nfet  L=9.07E-6 W=5.82E-6
R29 (net21 net189) R=4.1E0
R30 (net147 net12) R=1.2E4
R31 (net62 net226) R=9.7E2
T32 ( net20 net20 0 0)  nfet  L=1.75E-6 W=1.69E-6
T33 ( net28 net20 0 0)  nfet  L=1.75E-6 W=1.69E-6
R34 ( net28 net260)  R=5.7E3
C35 (net270 net58) C=9.5E-14
R36 ( net12 net92)  R=9.7E6
T37 ( net92 net57 vdd! vdd!)  pfet  L=3.97E-6 W=6.35E-6
T38 ( net170 net57 vdd! vdd!)  pfet  L=3.97E-6 W=6.35E-6
T39 ( 0 net92 net57 vdd!)  pfet  L=3.97E-6 W=6.35E-6
R40 (net267 net223) R=2.5E0
T41 ( net268 net268 vdd! vdd!)  pfet  L=5.69E-6 W=0.22E-6
T42 ( net18 net268 vdd! vdd!)  pfet  L=5.69E-6 W=0.22E-6
R43 ( net18 net53)  R=4.9E2
T44 (net256 net234 net234 0) pfet L=5.33E-6 W=1.86E-6
C45 (net226 net163) C=9.1E-13
R46 ( net110 net78)  R=7.0E3
T47 ( net78 net78 0 0)  nfet  L=6.10E-6 W=9.79E-6
T48 ( net274 net78 0 0)  nfet  L=6.10E-6 W=9.79E-6
T49 (net152 net90 net90 0) pfet L=1.35E-6 W=9.46E-6
C50 (net65 net247) C=5.4E-6
T51 (net110 0 0 0) pfet L=0.49E-6 W=3.47E-6
T52 (net107 net245 net245 0) nfet L=9.57E-6 W=6.71E-6
C53 (net126 net205) C=3.9E-6
R54 (net210 net218) R=9.7E6
T55 ( vdd! vdd! 0 0)  nfet  L=2.70E-6 W=0.70E-6
T56 ( net50 vdd! 0 0)  nfet  L=2.70E-6 W=0.70E-6
R57 ( net50 net214)  R=1.9E6
T58 (net11 net96 net96 0) pfet L=0.78E-6 W=1.60E-6
T59 (net44 vdd! vdd! 0) nfet L=4.75E-6 W=3.88E-6
T60 (net275 net174 net174 0) pfet L=6.98E-6 W=0.20E-6
C61 (net209 net198) C=3.1E-13
R62 ( net269 net33)  R=8.9E6
T63 ( net33 net205 0 0)  nfet  L=1.05E-6 W=0.87E-6
T64 ( net55 net205 0 0)  nfet  L=1.05E-6 W=0.87E-6
T65 ( vdd! net33 net205 0)  nfet  L=1.05E-6 W=0.87E-6
C66 (net278 0) C=5.4E-14
R67 (net64 net241) R=5.5E3
T68 (net117 net168 net168 0) nfet L=5.99E-6 W=5.96E-6
T69 (net85 net130 net130 0) nfet L=8.07E-6 W=6.95E-6
R70 ( net218 net247)  R=2.7E0
T71 ( net247 net247 net139 0)  nfet  L=9.72E-6 W=2.00E-6
T72 ( net139 net277 0 0)  nfet  L=9.72E-6 W=2.00E-6
T73 ( net277 net277 0 0)  nfet  L=9.72E-6 W=2.00E-6
T74 ( net94 net247 net277 0)  nfet  L=9.72E-6 W=2.00E-6
R75 (net19 vdd!) R=0.6E5
R76 ( net174 net181)  R=9.0E0
T77 ( net181 net76 vdd! vdd!)  pfet  L=8.53E-6 W=8.02E-6
T78 ( vdd! net76 vdd! vdd!)  pfet  L=8.53E-6 W=8.02E-6
T79 ( 0 net181 net76 vdd!)  pfet  L=8.53E-6 W=8.02E-6
R80 (0 net245) R=2.7E0
T81 ( net232 net232 0 0)  nfet  L=6.86E-6 W=8.42E-6
T82 ( net142 net232 0 0)  nfet  L=6.86E-6 W=8.42E-6
R83 ( net142 net251)  R=7.5E2
T84 (net127 net188 net188 0) pfet L=9.69E-6 W=5.00E-6
R85 (net251 net274) R=7.4E2
R86 (net196 vdd!) R=4.9E2
T87 ( net105 net105 0 0)  nfet  L=7.67E-6 W=4.07E-6
T88 ( net27 net105 0 0)  nfet  L=7.67E-6 W=4.07E-6
R89 ( net27 net97)  R=5.9E3
T90 (net5 net12 net12 0) pfet L=3.86E-6 W=1.20E-6
T91 (net264 net230 net230 0) pfet L=7.06E-6 W=6.77E-6
C92 (vdd! net230) C=4.3E-11
T93 (net230 net59 net59 0) pfet L=0.99E-6 W=8.03E-6
R94 ( net93 net229)  R=1.9E2
T95 ( net229 net249 0 0)  nfet  L=0.60E-6 W=5.63E-6
T96 ( net6 net249 0 0)  nfet  L=0.60E-6 W=5.63E-6
T97 ( vdd! net229 net249 0)  nfet  L=0.60E-6 W=5.63E-6
T98 (net136 net184 net184 0) nfet L=8.23E-6 W=4.68E-6
T99 (0 net241 net241 0) nfet L=0.70E-6 W=9.84E-6
R100 ( net99 net45)  R=5.6E4
T101 ( net45 net117 vdd! vdd!)  pfet  L=9.44E-6 W=1.30E-6
T102 ( net159 net117 vdd! vdd!)  pfet  L=9.44E-6 W=1.30E-6
T103 ( net209 net45 net159 vdd!)  pfet  L=9.44E-6 W=1.30E-6
T104 (net264 net243 net243 0) pfet L=4.51E-6 W=7.14E-6
R105 ( net270 net23)  R=5.0E2
T106 ( net23 net166 vdd! vdd!)  pfet  L=8.74E-6 W=0.76E-6
T107 ( vdd! net166 vdd! vdd!)  pfet  L=8.74E-6 W=0.76E-6
T108 ( 0 net23 net166 vdd!)  pfet  L=8.74E-6 W=0.76E-6
T109 (net99 net15 net15 0) pfet L=9.30E-6 W=8.13E-6
T110 (net85 net38 net38 0) pfet L=8.28E-6 W=1.80E-6
T111 ( net13 net13 0 0)  nfet  L=0.35E-6 W=8.79E-6
T112 ( net233 net13 0 0)  nfet  L=0.35E-6 W=8.79E-6
R113 ( net233 net47)  R=3.4E3
R114 (net268 net42) R=0.5E3
T115 (net230 net168 net168 0) nfet L=1.54E-6 W=6.95E-6
R116 ( net104 net95)  R=4.5E5
T117 ( net95 net25 vdd! vdd!)  pfet  L=1.63E-6 W=5.28E-6
T118 ( net6 net25 vdd! vdd!)  pfet  L=1.63E-6 W=5.28E-6
T119 ( net10 net95 net6 vdd!)  pfet  L=1.63E-6 W=5.28E-6
R120 (net88 net245) R=2.6E1
T121 (0 net280 net280 0) nfet L=2.97E-6 W=6.77E-6
R122 ( net143 net69)  R=9.0E2
T123 ( net69 net246 vdd! vdd!)  pfet  L=3.56E-6 W=0.44E-6
T124 ( net138 net246 vdd! vdd!)  pfet  L=3.56E-6 W=0.44E-6
T125 ( 0 net69 net246 vdd!)  pfet  L=3.56E-6 W=0.44E-6
R126 (net2 net156) R=1.2E5
T127 ( net182 net182 vdd! vdd!)  pfet  L=1.34E-6 W=2.92E-6
T128 ( net77 net182 vdd! vdd!)  pfet  L=1.34E-6 W=2.92E-6
R129 ( net77 net180)  R=6.6E3
R130 (net58 net186) R=5.4E5
T131 ( net259 net259 vdd! vdd!)  pfet  L=1.14E-6 W=3.03E-6
T132 ( net89 net259 vdd! vdd!)  pfet  L=1.14E-6 W=3.03E-6
R133 ( net89 net195)  R=1.3E3
T134 (net94 net82 net82 0) pfet L=9.76E-6 W=4.65E-6
R135 ( vdd! net270)  R=3.6E2
T136 ( net270 net270 net125 vdd!)  pfet  L=8.61E-6 W=4.19E-6
T137 ( net125 net241 vdd! vdd!)  pfet  L=8.61E-6 W=4.19E-6
T138 ( net241 net241 vdd! vdd!)  pfet  L=8.61E-6 W=4.19E-6
T139 ( net112 net270 net241 vdd!)  pfet  L=8.61E-6 W=4.19E-6
R140 (net138 net186) R=3.7E0
R141 ( net37 net90)  R=10.0E4
T142 ( net90 net90 net175 vdd!)  pfet  L=1.93E-6 W=2.63E-6
T143 ( net175 net106 vdd! vdd!)  pfet  L=1.93E-6 W=2.63E-6
T144 ( net106 net106 vdd! vdd!)  pfet  L=1.93E-6 W=2.63E-6
T145 ( net177 net90 net106 vdd!)  pfet  L=1.93E-6 W=2.63E-6
R146 (net96 net81) R=0.5E5
C147 (net4 net131) C=9.2E-11

